US04465685
3-Amino-1-(3-carboxyphenyl)-2-pyrazoline (108 mg) and phenylisocyanate (140 mg) in chloroform (10 ml) were heated to reflux overnight. The resultant solid was collected and dried to yield 1-(3-carboxyphenyl)-3-(3-phenylureido)-2-pyrazoline m.p. 255° decomp.

reactant | 3-Amino-1-(3-carboxyphenyl)-2-pyrazoline | 108 mg | NC1=NN(CC1)C1=CC(=CC=C1)C(=O)O | C10H11N3O2
reactant | phenylisocyanate | 140 mg | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(3-carboxyphenyl)-3-(3-phenylureido)-2-pyrazoline | C(=O)(O)C=1C=C(C=CC1)N1N=C(CC1)NC(=O)NC1=CC=CC=C1 | C17H16N4O3
